US07960407B2
To a clean and dry, nitrogen-purged 1 L round-bottom were charged tetra-N-butylammonium bromide (1.24 g, 3.85 mmoles) and 2-methyltetrahydrofuran (350 mL). 4-(2-Aminoethyl)benzenamine (35.0 g, 257 mmoles) was then added as a melt. This was followed by addition of a solution of sodium hydroxide (51.4 g, 1280 mmoles) dissolved in water (350 mL) keeping the temperature below 30° C. The reaction was then cooled to between −5° C. and 5° C. After holding for at least 30 minutes between −5° C. and 5° C., benzyl chloroformate (43.8 g, 257 mmoles) was added keeping the temperature between −50° C. and 5° C. The reaction was heated to between 0° C. and 10° C. and held for at least 30 minutes until deemed complete by HPLC. After warming the reaction to between 20° C. and 30° C., the reaction was allowed to settle for at least 60 minutes and then the phases were split. Citric acid (54.0 g, 257 mmoles) dissolved in water (350 mL) was added to the organic layer. After stirring for at least 60 minutes between 20° C. and 30° C. the phases were allowed to settle for at least 2 hours. The phases were split and the organic solution of benzyl 4-aminophenethylcarbamate was set aside. 4-Chloro-2,6-dimethyl-3-nitropyridine (40.0 g, 214 mmoles) was added to the now empty flask followed by the addition of the organic layer containing the benzyl 4-aminophenethylcarbamate and 2-propanol (350 mL). The reaction was heated to between 70° C. and 80° C. for at least 2 hours until the reaction was deemed complete by HPLC. The 2-propanol was displaced atmospherically with 2-methyltetrahydrofuran to a final volume of approximately 350 mL. The reaction was then cooled to between 15° C. and 25° C. and a sample was pulled for KF and GC Headspace. The reaction was held between 15° C. and 25° C. for at least 6 hours and the reaction was filtered and washed with 2-methyltetrahydrofuran (105 mL). After blowing the cake with nitrogen for at least 2 hours and drying under vacuum with nitrogen bleed at 40° C. to 50° C. for at least 24 hours, 76.7 g (168 mmoles) of benzyl 4-(2,6-dimethyl-3-nitropyridin-4-ylamino)phenethylcarbamate hydrochloride was isolated in 78.4% yield.

reactant | 2-methyltetrahydrofuran | 350 mL | CC1OCCC1 | C5H10O
reactant | 4-(2-Aminoethyl)benzenamine | 257 mmoles, 35.0 g | NCCC1=CC=C(C=C1)N | C8H12N2
reactant | sodium hydroxide | 1280 mmoles, 51.4 g | [OH-].[Na+]
reactant | benzyl chloroformate | 257 mmoles, 43.8 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | Citric acid | 257 mmoles, 54.0 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | 4-Chloro-2,6-dimethyl-3-nitropyridine | 214 mmoles, 40.0 g | ClC1=C(C(=NC(=C1)C)C)[N+](=O)[O-] | C7H7ClN2O2
reactant | benzyl 4-aminophenethylcarbamate | NC1=CC=C(CCNC(OCC2=CC=CC=C2)=O)C=C1 | C16H18N2O2
reactant | KF | [F-].[K+]
catalyst | tetra-N-butylammonium bromide | 3.85 mmoles, 1.24 g | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | water | 350 mL | O | H2O
solvent | water | 350 mL | O | H2O
solvent | 2-propanol | CC(C)O | C3H8O
solvent | 2-propanol | 350 mL | CC(C)O | C3H8O
product | benzyl 4-(2,6-dimethyl-3-nitropyridin-4-ylamino)phenethylcarbamate hydrochloride | 168 mmoles, 76.7 g, 78.4% yield | Cl.CC1=NC(=CC(=C1[N+](=O)[O-])NC1=CC=C(CCNC(OCC2=CC=CC=C2)=O)C=C1)C | InChI=1S/C23H24N4O4.ClH/c1-16-14-21(22(27(29)30)17(2)25-16)26-20-10-8-18(9-11-20)12-13-24-23(28)31-15-19-6-4-3-5-7-19;/h3-11,14H,12-13,15H2,1-2H3,(H,24,28)(H,25,26);1H
